US06737217B2
Synthesis of Poly(maleic anhydride/hexafluorobutyl-5-norbornene-2-carboxylate/2,6-difluoro-1-methylbenzylacrylate)
To 20 mL of tetrahydrofuran was added 10 mmole of maleic anhydride, 10 mmole of hexafluorobutyl-5-norbornene-2-carboxylate, 80 mmole of 2,6-difluoro-1-methylbenzylacrylate and 0.3 g of AIBN, and the resulting solution was reacted at about 65° C. for about 10 hours.

reactant | maleic anhydride | 10 mmole | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | hexafluorobutyl-5-norbornene-2-carboxylate | 10 mmole | FC(C(F)(F)OC(=O)C1C2C=CC(C1)C2)CC(F)(F)F | C12H12F6O2
reactant | 2,6-difluoro-1-methylbenzylacrylate | 80 mmole | FC1C(CC(C(=O)[O-])=C)(C(=CC=C1)F)C
reactant | AIBN | 0.3 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | maleic anhydride hexafluorobutyl-5-norbornene-2-carboxylate 2,6-difluoro-1-methylbenzylacrylate | C1(\C=C/C(=O)O1)=O.FC(C(F)(F)OC(=O)C1C2C=CC(C1)C2)CC(F)(F)F.FC1C(CC(C(=O)[O-])=C)(C(=CC=C1)F)C | InChI=1S/C12H12F6O2.C11H12F2O2.C4H2O3/c13-9(5-11(14,15)16)12(17,18)20-10(19)8-4-6-1-2-7(8)3-6;1-7(10(14)15)6-11(2)8(12)4-3-5-9(11)13;5-3-1-2-4(6)7-3/h1-2,6-9H,3-5H2;3-5,8H,1,6H2,2H3,(H,14,15);1-2H/p-1
